US07655666B2
2-Acetylamino-4-methanesulfonyloxymethyl-benzoic acid methyl ester
To a solution of 2-acetylamino-4-hydroxymethyl-benzoic acid methyl ester (4 g, 17.9 mmol) and Et3N (7.5 mL, 3.0 equiv) in DCM (100 mL) at 0° C. was added MsCl (2.1 mL, 1.5 equiv) dropwise. At the end of the addition, the mixture was stirred 1 h at 0° C. The organic phase was washed with a saturated solution of NaHCO3 and then dried (Na2SO4). The solution was concentrated in vacuo to afford the title compound as a brown paste (5.4 g, 100%) (ES-MS: m/z 302.2 [M+H]+, rt 4.58 min).

reactant | 2-acetylamino-4-hydroxymethyl-benzoic acid methyl ester | 17.9 mmol, 4 g | COC(C1=C(C=C(C=C1)CO)NC(C)=O)=O | C11H13NO4
reactant | Et3N | 7.5 mL, 3.0 equiv | CCN(CC)CC | C6H15N
reactant | MsCl | 2.1 mL, 1.5 equiv | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-Acetylamino-4-methanesulfonyloxymethyl-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)COS(=O)(=O)C)NC(C)=O)=O | C12H15NO6S
